US06599902B2
Synthesis of 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(3-oxo-piperazin-1-yl)-ethyl]-acetamide
To a mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (100 mg, 0.19 mmol), HOBt (3 mg, 0.1 eq.), EDAC.HCl (44 mg, 1.2 eq.) and 4-(2-amino-ethyl)-piperazin-2-one (30 mg, 1.1 eq.) in DMF (2 mL) at rt was added TEA (0.067 mL, 2.5 eq.). After stirring at rt for 7 days, the reaction was concentrated, diluted with DCM and then mixed with solid sodium bicarbonate. After stirring at rt for 15 mins, the suspension was loaded onto a silica gel column to give the titled compound as a pale orange solid.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.19 mmol, 100 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 3 mg, 0.1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC.HCl | 44 mg, 1.2 eq. | CCN=C=NCCCN(C)C.Cl
reactant | 4-(2-amino-ethyl)-piperazin-2-one | 30 mg, 1.1 eq. | NCCN1CC(NCC1)=O | C6H13N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-{5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-N-[2-(3-oxo-piperazin-1-yl)-ethyl]-acetamide | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)NCCN1CC(NCC1)=O)C | C30H31Cl2N5O5S
